US05167863
1.94 g of (2R,3S)-2-benzyloxy-3-butoxybutane was dissolved in a mixture of 80 ml of ethanol and 8 ml of 2 N hydrochloric acid. Thereto was added 200 mg of 5% palladium carbon. The mixture was subjected to hydrogenation at the atmospheric pressure at room temperature. After the completion of the reaction, the catalyst was removed by filtration and the filtrate was subjected to distillation. The residue was diluted with water and extracted with dichloromethane three times. The extract was dried and concentrated. The residue was subjected to Kugel-rohr distillation (30 mmHg) to obtain 0.76 g of (2R,3S)-3-butoxy-2-butanol. The 1H-NMR and IR spectrum of this compound were completely agreed with those of (2S,3R)-3-butoxy-2-butanol.

reactant | (2R,3S)-2-benzyloxy-3-butoxybutane | 1.94 g | C(C1=CC=CC=C1)O[C@H](C)[C@H](C)OCCCC | C15H24O2
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 2 N, 8 ml | Cl | ClH
catalyst | palladium carbon | 200 mg | [C].[Pd]
product | (2R,3S)-3-butoxy-2-butanol | 0.76 g | C(CCC)O[C@H]([C@@H](C)O)C | C8H18O2
